US04268509
A mixture of 1-(3-acetamidopropyl)-1H-tetrazole-5-thiol (85 g) and 6 N hydrochloric acid (1 l) was refluxed for 75 minutes under stirring. The reaction mixture was concentrated in vacuo and precipitates were collected by filtration and washed with hexane and diethyl ether to give 1-(3-aminopropyl)-1H-tetrazole-5-thiol hydrochloride (67.15 g).

reactant | 1-(3-acetamidopropyl)-1H-tetrazole-5-thiol | 85 g | C(C)(=O)NCCCN1N=NN=C1S | C6H11N5OS
reactant | hydrochloric acid | 6 N, 1 l | Cl | ClH
product | 1-(3-aminopropyl)-1H-tetrazole-5-thiol hydrochloride | 67.15 g | Cl.NCCCN1N=NN=C1S | InChI=1S/C4H9N5S.ClH/c5-2-1-3-9-4(10)6-7-8-9;/h1-3,5H2,(H,6,8,10);1H
